data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5331,"CC(O)[CH:1]([N+](=O)[O-])[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5517,"COC1=C([N:1]=[N:2][OH2+:3])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9197,"C1CCOC1.N#CC1=CC=C(N2CCC(OCCO)([OH+:1][H:2])CC2)C=C1.O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2214,"COC1=CC=C(COC2CC(CC(OC)C(CO[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[N-:1][P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)OC(C)(OC)C2)C=C1.N#N.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4822,"CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)[O:1][H:2].O=C1C2=CC=C[NH+]2C([O-:3])C2CCCN12|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8059,"C1=CC=[N:1]C=C1.C=CCC[O+:2](P(=O)(Cl)Cl)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5613,"C1=CNC=N1.COC1OC2COC(C3=CC=CC=C3)OC2C(I)C1[OH:1].I[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[I-]|(1, 2)"
train,pmechdb_split_0,0,1188,"COC(=O)[N:1]=[N:2][C:3](OC)=[O:4].C[P:5](C)C|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8036,"C1=CC=[NH+]C=C1.CC(C)O[S:1](C1=CC=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6852,"CCC1=C2SC(S)=NC2=C(C)C=C1.CCC1=C2SC([S-:1])=NC2=C(C)C=C1.CCCCC[P+:2](CC)(CCC)[O:3][CH:4](C)C1=C(CC)C=C(C)C=C1|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,3557,"O=[N+]([O-])[C:1]1=[CH:2][CH:3]=[C:4](I)C=C1.[OH-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9592,"CN(C)[C:1]([CH:2](C(=O)CC1=CC=CC=C1)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7455,"CC1CCC(CC[CH:1](C)[O:2]S(=O)(=O)CCl)[O:3]1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9156,"CC1=C(C#N)C(=O)N2CCC(OCCO)([OH:1])C2=C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,587,"CC(=O)CC(C1=CC=CC=C1)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7360,"CC(=O)[C:1](C(C)(C)[Si](C)(C)C)=[CH:2]C.C[C:3]([O:4][H:5])=[O+:6][B-](F)(F)F|((1, 2), 5);((5, 4), 3);((3, 6), 6)"
train,pmechdb_split_0,0,8882,"C=CCCC(CCCCC(=O)[O-:1])C(=O)O.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10010,"O=CCC[C:1]([CH2:2][H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1692,"CC(=O)[O:1][H:2].CC1([O-:3])CC2=C(CCCC2=O)[NH2+]1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9816,"CCO[C:1]1([O-:2])CCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6975,"O=C(C(F)(F)F)[O:1][H:2].O=C(N[NH2+]C(C1=CC=C(Br)C=C1)[O-:3])C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9280,"CC[CH:1](C)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,5554,"CC(C)(C)[O-:1].[C-]#[N+][CH:2](S(=O)(=O)C1CCC(C)CC1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6258,"C1=CC=C(C2=C(C3=CC=CC=C3)[C:1]2=[O:2])C=C1.C1CCC2=[NH+]CCCN2CC1.CCOC(=O)C=C(C1=CC=CC=C1)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9942,"O=[N+]([O-])C1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,5806,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O=C1CCC2CCCC3=C2[C:1]1([H:2])[CH:3]=[O+:4]3.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8883,"O=S(=O)(O)[O-:1].OCC(CO)[O+:2](CC1CO1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5895,"C1=CCC2CCC(C1)N=C2[OH+:1][H:2].CC1=CC=C(S(=O)(=O)[O-])C=C1.[Cl-].[Na+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9320,"CCC(C)=[O:1].CCCC[B:2](Cl)CCCC.CCN(CC)CC|(1, 2)"
train,pmechdb_split_0,0,6168,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])NC2=C(C=CC=C2)[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,3315,"CP(C)(C)(I)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6177,"[Cl-].[O-]C1([OH+:1][Na:2])C2CCCC21.[OH2+][Na]|((2, 1), 1)"
train,pmechdb_split_0,0,2014,"CC(C)[O-].CCCCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CC(C)C)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2777,"C[CH:1]1CCCC[C:2]1=[N:3][OH2+:4].O=S(=O)([O-])O|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2002,"BrBr.COC1=CC([C:1]([C:2](Br)(Br)[H:3])=[O:4])=CC(OC)=C1C(=O)C1=C(OC)C=CC=C1C#N.[Br-].[Na+].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4072,"Cl[PH+:1](Cl)[O:2][CH3:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1761,"CC1(C2=CC=CC=C2)CCC[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9717,"C=CCN1CCC23C4=C(C=CC(OC)=C4O)CC1C2C[CH+:1][C:2](O)=[CH:3]3.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]|((3, 2), 1)"
train,pmechdb_split_0,0,6320,"C[C:1](C1=CC=CC=C1)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1933,"CSC=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3087,"C[Si](C)(C)C1(C2([O-:1])CCCCC2)CC1.[H:2][OH:3].[Li+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,983,"C1CO[C:1](=[NH2+:2])O1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6420,"C1=CC=C([CH2:1][Br:2])C=C1.C1C[N:3]2CCN1CC2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4456,"C=C(Cl)Cl.O.O=[C:1]([NH2+:2]CCC=C1C2=C(C=CC=C2)COC2=C1C=CC=C2)[O-:3].[Cl][Zn+]|(3, 1);((1, 2), 2)"
